US07151105B2
Step 1: 1-(4-Bromo-2-ethyl-benzyl)-pyrrolidine
To a solution of 4-bromo-1-bromomethyl-2-ethyl-benzene (2.00 g, 7.19 mmol) in CH2Cl2 (30 mL) was added dropwise pyrrolidine (1.19 mL, 14.4 mmol). The mixture was stirred for 15 hours, and then partitioned between Et2O and H2O. The organic layer was washed with brine, dried over MgSO4, and concentrated to yield a yellow oil (1.3 g, 68%). 1H NMR (300 MHz, CDCl3): δ 1.19 (t, J=7.5 Hz, 3 H), 1.76 (m, 4 H), 2.47 (m, 4 H), 2.69 (q, J=7.5 Hz, 2 H), 3.54 (s, 2 H), 7.19 (m, 1 H), 7.25 (m, 1 H), 7.29 (d, J=1.9 Hz, 1 H).

reactant | 4-bromo-1-bromomethyl-2-ethyl-benzene | 7.19 mmol, 2.00 g | BrC1=CC(=C(C=C1)CBr)CC | C9H10Br2
reactant | pyrrolidine | 14.4 mmol, 1.19 mL | N1CCCC1 | C4H9N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Bromo-2-ethyl-benzyl)-pyrrolidine | 1.3 g, 68% | BrC1=CC(=C(CN2CCCC2)C=C1)CC | C13H18BrN
